US06294547B1
Synthesis of 10-amino-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine trihydrochloride
10-Amino-2-t-butoxycarbonyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine (0.538 g, 1.80 mmol) was suspended in dioxane (3 ml), followed by adding thereto 4N-hydrogen chloride/dioxane (9 ml) under ice-cooling, and the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated to obtain the desired compound (0.585 g, quant.).

reactant | 10-Amino-2-t-butoxycarbonyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine | 1.80 mmol, 0.538 g | NC1=C2C(=NC=3CCN(CC13)C(=O)OC(C)(C)C)C=CC=C2 | C17H21N3O2
reactant | hydrogen chloride dioxane | 9 ml | Cl.O1CCOCC1
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 10-amino-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine trihydrochloride | 0.585 g | Cl.Cl.Cl.NC1=C2C(=NC=3CCNCC13)C=CC=C2 | InChI=1S/C12H13N3.3ClH/c13-12-8-3-1-2-4-10(8)15-11-5-6-14-7-9(11)12;;;/h1-4,14H,5-7H2,(H2,13,15);3*1H
